US04261884
S-Trityl-3-Mercaptopropanoyl-L-proline
A solution of 1.51 g (0.01 mole) of L-proline in 20 mls of 2N NoOH is chilled in an icebath and treated with a total of 4.03 g (0.011 mol) of S-trityl-3-mercaptopropionyl chloride and 20 ml of 2N NaOH in 5 equal and alternate portions with vigorous intermittent shaking and cooling in an ice bath. The solution is kept at an alkaline pH by the addition of more alkali when necessary. Upon completion of the addition of the reagents, the reaction mixture is stirred for an additional 15 min. at room temperture and then acidified to Congo red with cooling by dropwise treatment with concentrated HCl. The reaction is placed in a refrigerator overnight. The resultant precipitate is recovered by filtration, washed several times with ice water and dried in a dessicator over phosphorus pentoxide. Recrystallization in EtOH/H2O gave 3.2 g (72%) of the desired product. The NMR and IR showed the required peaks.

reactant | L-proline | 0.01 mole, 1.51 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | S-trityl-3-mercaptopropionyl chloride | 0.011 mol, 4.03 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)SCCC(=O)Cl | C22H19ClOS
reactant | HCl | Cl | ClH
solvent | NaOH | 2N, 20 ml | [OH-].[Na+]
product | S-Trityl-3-Mercaptopropanoyl-L-proline | 3.2 g, 72% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)SCCC(=O)N1[C@H](C(=O)O)CCC1 | C27H27NO3S
